US06500853B1
2-[5-(1-benzofuran-2-yl)-1-benzyl-1H-indol-3-yl]acetic acid
The title compound was prepared according to the procedure described in Example 78 except that 2-[5-bromo-1-benzyl-1H-indol-3-yl]acetic acid and benzo[b]furan-2-boronic acid were used.

reactant | 2-[5-bromo-1-benzyl-1H-indol-3-yl]acetic acid | BrC=1C=C2C(=CN(C2=CC1)CC1=CC=CC=C1)CC(=O)O | C17H14BrNO2
reactant | benzo[b]furan-2-boronic acid | O1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO3
product | 2-[5-(1-benzofuran-2-yl)-1-benzyl-1H-indol-3-yl]acetic acid | O1C(=CC2=C1C=CC=C2)C=2C=C1C(=CN(C1=CC2)CC2=CC=CC=C2)CC(=O)O | C25H19NO3
